US05334765
A solution of lithium hydroxide monohydrate (7.68 g) in water (50 mL) was added to a stirred solution of methyl (R)-3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoate (14.38 g) in methanol (120 mL) and distilled tetrahydrofuran (120 mL) under an inert atmosphere. After 18 h the solvent was evaporated, the residue was dissolved in water (250 mL) and distilled tetrahydrofuran (23 mL), acidified to pH 1 by addition of concentrated hydrochloric acid, and diluted with water (150 mL). The precipitate was collected and washed with water to give (R)-3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoic acid (14.28 g, 100%); mp 218°-223° C.; partial NMR (300 MHz, DMSO-d6): 1.00 (d, 3H, CH3), 2.04-2.28 (m, 2H, CF3CH2), 2.32-2.44 (m, 1H, CHCH3), 3.21 (br t, 2H, CH2N), 3.76 (s, 3H, NCH3), 3.90 (s, 3H, OCH3), 4.07 (s, 2H, ArCH2Ar'), 8.43 (br t, 1H, NHCO).

reactant | lithium hydroxide monohydrate | 7.68 g | O.[OH-].[Li+]
reactant | methyl (R)-3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoate | 14.38 g | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)C(NC[C@@H](CC(F)(F)F)C)=O)C | C25H27F3N2O4
solvent | water | 50 mL | O | H2O
solvent | methanol | 120 mL | CO | CH4O
product | (R)-3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoic acid | 14.28 g, 100% | COC=1C=C(C(=O)O)C=CC1CC1=CN(C2=CC=C(C=C12)C(NC[C@@H](CC(F)(F)F)C)=O)C | C24H25F3N2O4
